US08258130B2
(5-Bromo-pyrimidine-2-yl)-phenyl-methanone (1.6 g, 6.08 mmol) is dissolved in dimethylacetamide (20 mL), and potassium hexacyanoferrate(II) trihydrate (0.57 g, 1.34 mmol) is added, followed by Na2CO3 (0.64 g, 6.08 mmol), and palladium (II) acetate (68 mg, 0.3 mmol). The mixture is heated to 150° C. under N2 for 3 h, and then cooled to rt. EtOAc (30 mL) is added and the mixture is filtered. The filtrate is washed with water (2×15 mL) and 5% aqueous NH4OH (15 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 70% EtOAc in heptane to afford 2-benzoyl-pyrimidine-5-carbonitrile (0.53 g, 42%) as a solid. MS: 210 (M+H).

reactant | (5-Bromo-pyrimidine-2-yl)-phenyl-methanone | 6.08 mmol, 1.6 g | BrC=1C=NC(=NC1)C(=O)C1=CC=CC=C1 | C11H7BrN2O
reactant | Na2CO3 | 6.08 mmol, 0.64 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
reactant | dimethylacetamide | 20 mL | CC(=O)N(C)C | C4H9NO
catalyst | potassium hexacyanoferrate(II) trihydrate | 1.34 mmol, 0.57 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.O.O.O.[K+].[K+].[K+].[K+].[Fe+2]
catalyst | palladium (II) acetate | 0.3 mmol, 68 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-benzoyl-pyrimidine-5-carbonitrile | 0.53 g, 42% | C(C1=CC=CC=C1)(=O)C1=NC=C(C=N1)C#N | C12H7N3O
